US08026234B2
Compound 81: 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(4-(2-(dimethylamino)acetyl)piperazin-1-yl)-3-methoxybenzamide
The title compound was synthesized from 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(piperazin-1-yl)benzamide using a procedure that is analogous to that described in connection with amide formation except that N,N-dimethylglycine. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.12-1.89 (m, 10H) 2.19 (s, 6H) 2.89 (br. s., 2H) 2.94 (br. s., 2H) 3.31 (s, 3H) 3.54 (br. s., 2H) 3.63 (br. s., 2H) 3.93 (s, 3H) 4.06 (t, J=13.39 Hz, 2H) 4.46 (m, 1H) 7.42 (d, J=8.0 Hz, 1H) 7.44 (s, 1H) 7.91 (s, 1H) 8.21 (s, 1H) 8.28 (d, J=8.33 Hz, 1H) 9.52 (s, 1H). [M+H] calculated for C30H41F2N9O4, 630. found 630.

reactant | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(piperazin-1-yl)benzamide | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NN1CCNCC1)C=C2)OC | C26H34F2N8O3
reactant | N,N-dimethylglycine | CN(CC(=O)O)C | C4H9NO2
product | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(4-(2-(dimethylamino)acetyl)piperazin-1-yl)-3-methoxybenzamide | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NN1CCN(CC1)C(CN(C)C)=O)C=C2)OC | C30H41F2N9O4
